* File: LSOGCPX3.pex.netlist.pex
* Created: Fri Jun 30 08:53:19 2017
* Program "Calibre xRC"
* Version "v2017.2_28.22"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_LSOGCPX3_D_VDD 1 4 9 10 15 16 23 24 31 32 37 38 43 44 49 54 72 73 74
+ 75 76 77 78
c90 78 0 0.0710524f
c91 77 0 0.0788863f
c92 76 0 0.066064f
c93 75 0 0.0768448f
c94 74 0 0.067404f
c95 73 0 0.0891638f
c96 72 0 0.0871943f
c97 64 0 0.0467475f
c98 63 0 0.0467475f
c99 62 0 0.0467475f
c100 61 0 0.0467475f
c101 60 0 0.0467475f
c102 59 0 0.0467475f
c103 54 0 0.436347f
c104 49 0 0.0907794f
c105 44 0 0.299057f
c106 43 0 0.106156f
c107 38 0 0.316856f
c108 37 0 0.0897761f
c109 32 0 0.308683f
c110 31 0 0.106156f
c111 24 0 0.515464f
c112 23 0 0.0897761f
c113 16 0 0.633377f
c114 15 0 0.0994151f
c115 14 0 0.035446f
c116 10 0 0.350314f
c117 9 0 0.105561f
c118 4 0 0.434747f
c119 1 0 0.0467475f
r120 72 85 0.0566888
r121 58 73 0.122778
r122 50 64 0.0231002
r123 49 64 0.0225187
r124 48 78 0.0566888
r125 48 49 0.184167
r126 45 63 0.0231002
r127 44 64 0.0231002
r128 43 63 0.0225187
r129 42 77 0.0566888
r130 42 43 0.184167
r131 39 62 0.0231002
r132 38 63 0.0231002
r133 37 62 0.0225187
r134 36 76 0.0566888
r135 36 37 0.184167
r136 33 61 0.0231002
r137 32 62 0.0231002
r138 31 61 0.0225187
r139 30 75 0.0566888
r140 30 31 0.184167
r141 25 60 0.0231002
r142 24 61 0.0231002
r143 23 60 0.0225187
r144 22 74 0.0566888
r145 22 23 0.184167
r146 17 59 0.0231002
r147 16 60 0.0231002
r148 15 59 0.0225187
r149 14 58 0.0472333
r150 14 15 0.2125
r151 10 59 0.0231002
r152 9 85 0.184167
r153 1 9 0.0225187
r154 1 4 0.0231002
r155 1 11 0.0231002
r156 1 54 0.12325
r157 1 50 0.102
r158 1 44 0.119
r159 1 45 0.153
r160 1 38 0.204
r161 1 39 0.0765
r162 1 32 0.1445
r163 1 33 0.136
r164 1 24 0.085
r165 1 25 0.119
r166 1 16 0.102
r167 1 17 0.17
r168 1 10 0.187
r169 1 11 0.11475
r170 1 4 0.24225
.ends

.subckt PM_LSOGCPX3_CGOBS 2 6 8 9 17
c22 17 0 0.141958f
c23 9 0 0.327705f
c24 8 0 0.102266f
c25 6 0 0.11204f
c26 2 0 0.130179f
r27 17 18 0.04675
r28 8 10 0.0519666
r29 8 9 0.0519666
r30 6 18 0.025958
r31 6 10 0.19125
r32 3 11 0.0216719
r33 3 9 0.942083
r34 2 11 0.0708333
.ends

.subckt PM_LSOGCPX3_N$271 2 4 6 7 10 13 15 16 18 21 25 27 30 32 33 34 36 39 40
+ 41 43 45 48 51 54 56 59 63 66 69
c199 69 0 0.164179f
c200 66 0 0.140267f
c201 63 0 0.299381f
c202 56 0 0.391633f
c203 54 0 0.0544728f
c204 51 0 0.0455422f
c205 48 0 0.157982f
c206 45 0 0.0328748f
c207 43 0 0.0730288f
c208 41 0 0.0230494f
c209 40 0 0.181409f
c210 39 0 0.0461711f
c211 36 0 0.0788725f
c212 34 0 0.0824125f
c213 33 0 0.130502f
c214 32 0 0.132967f
c215 30 0 0.136492f
c216 27 0 0.0624911f
c217 25 0 0.187732f
c218 21 0 0.338377f
c219 18 0 0.105128f
c220 16 0 0.0729624f
c221 15 0 0.283955f
c222 13 0 0.537908f
c223 10 0 0.202364f
c224 7 0 0.123858f
c225 6 0 0.267268f
c226 4 0 0.127258f
r227 65 66 7
r228 63 65 38.7466
r229 59 66 0.140857
r230 55 69 15.2843
r231 54 56 0.0519666
r232 54 55 7
r233 51 52 0.138211
r234 48 62 15.2843
r235 47 48 7
r236 45 56 1.21125
r237 43 45 0.0474919
r238 42 43 0.198333
r239 40 42 0.0474919
r240 40 41 0.65875
r241 39 41 0.0474919
r242 38 39 0.113333
r243 36 38 0.0474919
r244 36 37 0.354167
r245 35 51 0.00603795
r246 34 37 0.068
r247 34 35 0.2975
r248 32 52 0.00603795
r249 32 33 0.595
r250 28 30 20.8333
r251 23 25 37.5
r252 19 30 1.46822
r253 19 21 91.6667
r254 17 28 1.46822
r255 17 18 33.3333
r256 15 18 13.9682
r257 15 16 75
r258 11 27 10.5861
r259 11 13 141.667
r260 10 27 10.5861
r261 9 16 13.9682
r262 9 10 58.3333
r263 7 27 2.75115
r264 7 69 37.5
r265 6 63 4.06478
r266 5 25 1.46822
r267 5 6 95.8333
r268 4 23 1.46822
r269 4 62 41.6667
r270 2 33 0.0523728
r271 2 47 0.11902
.ends

.subckt PM_LSOGCPX3_D_GND 1 8 9 10 11 12 13 15 17 19 21 23 27 33 39 45 51 54 74
+ 76
c95 76 0 0.425805f
c96 74 0 0.425828f
c97 54 0 0.475986f
c98 52 0 0.0467475f
c99 51 0 0.518777f
c100 46 0 0.0467475f
c101 45 0 0.330041f
c102 40 0 0.0467475f
c103 39 0 0.740003f
c104 34 0 0.0467475f
c105 33 0 0.379093f
c106 28 0 0.0458872f
c107 27 0 0.224724f
c108 23 0 0.0914568f
c109 21 0 0.0922089f
c110 19 0 0.0943793f
c111 17 0 0.0804425f
c112 15 0 0.158776f
c113 13 0 0.0614815f
c114 12 0 0.0625092f
c115 11 0 0.0787296f
c116 10 0 0.0621125f
r117 58 76 0.0374263
r118 54 76 0.0374263
r119 51 52 0.0231002
r120 50 52 0.0231002
r121 45 46 0.0231002
r122 44 46 0.0231002
r123 39 40 0.0231002
r124 38 40 0.0231002
r125 33 34 0.0231002
r126 32 34 0.0231002
r127 27 28 0.0231002
r128 26 28 0.0231002
r129 22 52 0.0225187
r130 22 23 0.17
r131 20 46 0.0225187
r132 20 21 0.17
r133 18 40 0.0225187
r134 18 19 0.155833
r135 16 34 0.0225187
r136 16 17 0.155833
r137 14 28 0.0225187
r138 14 15 0.3825
r139 13 23 0.0519666
r140 12 21 0.0519666
r141 11 19 0.0519666
r142 10 17 0.0519666
r143 9 15 0.104913
r144 1 8 0.0811364
r145 1 76 0.00193182
r146 1 74 0.12325
r147 1 50 0.119
r148 1 51 0.238
r149 1 44 0.238
r150 1 45 0.119
r151 1 38 0.1785
r152 1 39 0.1785
r153 1 32 0.2125
r154 1 33 0.1445
r155 1 26 0.20825
r156 1 27 0.14875
r157 1 58 0.08075
r158 1 54 0.14025
.ends

.subckt PM_LSOGCPX3_N$272 2 3 5 6 7 8 9 12 14 16 21 26 31 34 37
c76 37 0 0.216431f
c77 34 0 0.131229f
c78 31 0 0.0327138f
c79 26 0 0.0255289f
c80 21 0 0.166402f
c81 16 0 0.0237154f
c82 14 0 0.0227308f
c83 12 0 0.43107f
c84 9 0 0.065022f
c85 8 0 0.090412f
c86 7 0 0.438989f
c87 6 0 0.192704f
c88 3 0 0.177724f
r89 31 32 0.1632
r90 27 37 18.8079
r91 26 29 0.0236111
r92 26 27 7
r93 22 36 12.7841
r94 21 22 7
r95 17 32 0.00671768
r96 16 34 0.0300032
r97 16 17 0.141667
r98 15 29 0.0216719
r99 14 31 0.00671768
r100 14 15 0.0991667
r101 10 37 5.88667
r102 10 12 108.333
r103 8 37 11.0394
r104 8 9 29.1667
r105 7 9 13.9682
r106 6 36 13.9111
r107 6 7 158.333
r108 3 36 6.10575
r109 3 5 25
r110 2 21 0.191479
.ends

.subckt PM_LSOGCPX3_A 2 4 6 8 9 10 11 12 15 18 25 31 33 34 37 45 48 50 52 53 54
+ 57 61 64 65 66 69
c154 69 0 0.359613f
c155 66 0 0.220518f
c156 65 0 0.127417f
c157 64 0 0.165493f
c158 61 0 0.269757f
c159 54 0 0.0833173f
c160 53 0 0.132421f
c161 52 0 0.047378f
c162 50 0 0.0342433f
c163 48 0 0.139968f
c164 45 0 0.327966f
c165 37 0 0.157144f
c166 34 0 0.0555803f
c167 33 0 0.0604748f
c168 31 0 0.480512f
c169 25 0 0.331451f
c170 18 0 0.183217f
c171 15 0 0.553106f
c172 12 0 0.0725014f
c173 11 0 0.252521f
c174 10 0 0.0784992f
c175 9 0 0.494249f
c176 8 0 0.396039f
c177 6 0 0.13915f
c178 4 0 0.0567322f
c179 2 0 0.0982605f
r180 64 66 15.2843
r181 64 65 7
r182 62 66 75
r183 57 65 0.140216
r184 53 70 15.2843
r185 53 69 15.2843
r186 52 54 0.0519666
r187 52 53 7
r188 50 54 0.311667
r189 48 62 15.2843
r190 48 61 15.2843
r191 47 50 0.0519666
r192 47 48 7
r193 44 45 7
r194 35 37 29.1667
r195 34 45 36.855
r196 33 34 16.6667
r197 31 70 145.833
r198 27 37 1.46822
r199 27 69 133.333
r200 23 35 1.46822
r201 23 25 79.1667
r202 19 33 14.7074
r203 19 61 91.6667
r204 18 45 15.5984
r205 17 18 58.3333
r206 13 15 168.75
r207 11 13 13.9682
r208 11 12 62.5
r209 9 17 13.9682
r210 9 10 141.667
r211 8 12 13.9682
r212 7 8 139.583
r213 4 7 14.8148
r214 4 6 33.3333
r215 3 10 13.9682
r216 3 6 25
r217 2 44 0.11902
.ends

.subckt PM_LSOGCPX3_nose 2 4 5 6 9 11 13 16 24 25 26 27 29 31 33 35 38 39 40 42
+ 43 44 49 50 56 58 61 62 68 70 76 77 78
c193 78 0 0.078466f
c194 77 0 0.24312f
c195 76 0 0.491387f
c196 70 0 0.262207f
c197 62 0 0.139687f
c198 61 0 0.0836907f
c199 58 0 0.0331887f
c200 56 0 0.205307f
c201 50 0 0.0417844f
c202 49 0 0.0412308f
c203 44 0 0.00913935f
c204 43 0 0.0187572f
c205 42 0 0.0146593f
c206 40 0 0.0182971f
c207 39 0 0.0133869f
c208 38 0 0.00358464f
c209 35 0 0.0817784f
c210 33 0 0.116314f
c211 31 0 0.137681f
c212 29 0 0.0960067f
c213 27 0 0.0571824f
c214 26 0 0.106049f
c215 25 0 0.124335f
c216 16 0 0.252702f
c217 11 0 0.181527f
c218 9 0 0.426824f
c219 6 0 0.0713392f
c220 5 0 0.186043f
c221 4 0 0.593836f
c222 2 0 0.0593588f
r223 69 70 33.3333
r224 68 78 0.0188889
r225 62 77 15.2843
r226 62 76 15.2843
r227 61 63 0.0173469
r228 61 62 7
r229 59 61 0.144558
r230 56 74 4.80769
r231 56 72 24.0385
r232 55 58 0.0519666
r233 55 56 7
r234 50 52 0.155833
r235 47 70 1.66667
r236 46 49 0.0519666
r237 46 47 7
r238 43 44 0.113333
r239 41 42 0.085
r240 39 78 0.0216719
r241 39 40 0.113333
r242 38 40 0.0474919
r243 37 38 0.085
r244 36 63 0.0134325
r245 35 37 0.0474919
r246 35 36 0.226667
r247 33 42 0.0474919
r248 33 58 0.53125
r249 32 43 0.0566667
r250 31 59 0.0134325
r251 31 32 0.410833
r252 30 50 0.00499195
r253 29 44 0.152204
r254 29 30 0.255
r255 27 52 0.00499195
r256 27 49 0.34
r257 26 76 179.167
r258 25 26 16.6389
r259 24 77 45.8333
r260 18 74 4.66416
r261 18 25 45.8333
r262 14 72 4.66416
r263 14 16 50
r264 11 13 25
r265 7 70 4.19369
r266 7 9 112.5
r267 5 11 13.9682
r268 5 6 29.1667
r269 4 69 4.19369
r270 3 6 13.9682
r271 3 4 204.167
r272 2 41 0.0519666
.ends

.subckt PM_LSOGCPX3_cn 2 3 5 8 9 11 15 16 17 21 26 31 34 35 36 42 44 47 50
c102 50 0 0.261713f
c103 47 0 0.191995f
c104 44 0 0.0988003f
c105 42 0 0.157124f
c106 36 0 0.0247059f
c107 35 0 0.136972f
c108 34 0 0.162173f
c109 31 0 0.0455851f
c110 26 0 0.0364925f
c111 21 0 0.18543f
c112 17 0 0.086471f
c113 16 0 0.0634263f
c114 15 0 0.427574f
c115 9 0 0.215999f
c116 8 0 0.601832f
c117 5 0 0.216257f
c118 3 0 0.258552f
c119 2 0 0.157207f
r120 44 55 0.03825
r121 42 54 15.2843
r122 41 42 7
r123 34 50 15.2843
r124 33 36 0.0141667
r125 33 35 0.0519666
r126 33 34 7
r127 31 35 0.453333
r128 29 47 15.2778
r129 28 31 0.0519666
r130 28 29 7
r131 26 55 0.025958
r132 25 36 0.0216719
r133 25 26 0.085
r134 19 21 35.4167
r135 16 17 27.7909
r136 15 21 1.46822
r137 15 54 147.917
r138 12 19 1.46822
r139 12 50 85.4167
r140 9 47 6.3741
r141 9 11 45.8333
r142 8 47 6.3741
r143 7 16 14.7074
r144 7 8 212.5
r145 3 17 37.1613
r146 3 5 37.5
r147 2 41 0.103553
.ends

.subckt PM_LSOGCPX3_ci 2 5 9 13 16 17 20 22 23 26 28 30 32 34 39 42 44 47 52 54
+ 57 66 73 74 78
c148 78 0 0.0274786f
c149 74 0 0.238496f
c150 73 0 0.115722f
c151 66 0 0.0738713f
c152 57 0 0.0601748f
c153 54 0 0.0260338f
c154 52 0 0.143643f
c155 47 0 0.0330248f
c156 44 0 0.0206752f
c157 42 0 0.160127f
c158 39 0 0.014263f
c159 34 0 0.10185f
c160 32 0 0.0767261f
c161 30 0 0.148231f
c162 28 0 0.0741435f
c163 26 0 0.167122f
c164 23 0 0.170712f
c165 22 0 0.220438f
c166 20 0 0.209977f
c167 17 0 0.552801f
c168 16 0 0.189897f
c169 9 0 0.228503f
c170 5 0 0.8439f
c171 2 0 0.0779654f
r172 66 78 0.0566888
r173 57 59 0.119
r174 57 58 7
r175 55 57 0.017
r176 52 74 15.2843
r177 52 73 15.2843
r178 51 54 0.0519666
r179 51 52 7
r180 47 49 0.0244253
r181 47 48 7
r182 45 47 0.0146552
r183 42 69 15.2843
r184 41 44 0.0519666
r185 41 42 7
r186 38 60 0.0216719
r187 38 39 0.085
r188 36 78 0.085
r189 35 55 0.0142585
r190 34 39 0.0474919
r191 34 35 0.240833
r192 32 36 0.0474919
r193 32 54 0.255
r194 31 45 0.0202956
r195 30 59 0.0142585
r196 30 31 0.5525
r197 28 49 0.0202956
r198 28 44 0.368333
r199 24 26 29.1667
r200 22 48 33.4821
r201 22 23 33.3333
r202 18 58 23.917
r203 18 20 37.5
r204 17 26 1.46822
r205 16 58 15.3456
r206 16 17 185.417
r207 14 24 1.46822
r208 14 73 35.4167
r209 13 74 45.8333
r210 7 23 14.7074
r211 7 9 41.6667
r212 5 69 275
r213 2 60 0.0708333
.ends

.subckt PM_LSOGCPX3_GCLK 2 5 8 9 10 15 17 19 20 28 31 33 34 36 38
c86 38 0 0.238741f
c87 36 0 0.124502f
c88 34 0 0.10229f
c89 33 0 0.044127f
c90 31 0 0.104372f
c91 20 0 0.164914f
c92 19 0 0.0506148f
c93 17 0 0.0329138f
c94 15 0 0.163077f
c95 10 0 0.0416032f
c96 9 0 0.040764f
c97 8 0 0.0341229f
c98 5 0 0.111837f
c99 2 0 0.0943797f
r100 38 42 81.25
r101 33 36 0.0377778
r102 33 34 0.0519666
r103 29 31 0.141667
r104 20 42 15.2843
r105 19 21 0.0940755
r106 19 20 7
r107 15 38 15.2843
r108 14 17 0.0519666
r109 14 15 7
r110 11 31 0.00499195
r111 11 34 0.34
r112 10 29 0.00499195
r113 9 28 0.023746
r114 9 10 0.085
r115 8 21 0.0152264
r116 7 22 0.0216719
r117 7 8 0.085
r118 5 28 0.023746
r119 5 17 0.495833
r120 2 22 0.0519444
.ends

.subckt PM_LSOGCPX3_nose2 2 5 6 8 9 10 12 15 16 17 19 23 25 27 33 34 35 41 43 52
c76 52 0 0.0711189f
c77 43 0 0.217618f
c78 41 0 0.0694773f
c79 35 0 0.144444f
c80 34 0 0.166577f
c81 33 0 0.055461f
c82 27 0 0.0498764f
c83 25 0 0.0341529f
c84 23 0 0.159021f
c85 19 0 0.170034f
c86 17 0 0.093509f
c87 16 0 0.0452648f
c88 15 0 0.0465132f
c89 12 0 0.392454f
c90 10 0 0.20848f
c91 9 0 0.232496f
c92 6 0 0.314839f
r93 41 52 0.0566888
r94 34 49 15.2843
r95 33 35 0.0519666
r96 33 34 7
r97 28 46 20.5177
r98 27 30 0.0377778
r99 27 28 7
r100 23 43 15.2843
r101 22 25 0.0519666
r102 22 23 7
r103 19 39 0.0375817
r104 19 35 0.283333
r105 17 39 0.0146379
r106 17 25 0.481667
r107 15 30 0.0216719
r108 15 16 0.198333
r109 13 16 0.0474919
r110 13 52 0.198333
r111 12 49 106.25
r112 10 46 10.9983
r113 9 12 13.9682
r114 9 10 41.6667
r115 6 46 4.84696
r116 6 8 65.625
r117 5 43 37.5
r118 2 39 0.123514
.ends

.subckt PM_LSOGCPX3_SE 1 3 4 5 8 12 16
c43 16 0 0.25535f
c44 12 0 0.0781551f
c45 8 0 0.548214f
c46 5 0 0.236844f
c47 4 0 0.298797f
c48 1 0 0.152471f
r49 16 18 26.3889
r50 15 16 7
r51 12 15 0.0519444
r52 6 18 6.3741
r53 6 8 162.5
r54 5 18 6.3741
r55 4 10 44.9
r56 4 5 75
r57 1 10 5.13052
r58 1 3 25
.ends

.subckt PM_LSOGCPX3_E 3 5 6 9 12 15 21 23
c52 23 0 0.16619f
c53 21 0 0.030744f
c54 15 0 0.165646f
c55 12 0 0.28917f
c56 9 0 0.201899f
c57 6 0 0.0616446f
c58 5 0 0.126642f
c59 3 0 0.719951f
r60 19 23 11.3895
r61 19 21 7
r62 13 15 25
r63 12 23 6.07858
r64 11 15 1.46822
r65 11 12 102.083
r66 7 13 1.46822
r67 7 9 37.5
r68 5 23 11.066
r69 5 6 41.6667
r70 1 6 13.9682
r71 1 3 222.917
.ends

.subckt PM_LSOGCPX3_CLK 1 3 4 5 8 11 12 14 16 17 20 21 23 24 27 33 34 36 38 40
+ 47
c102 47 0 0.16256f
c103 40 0 0.0557998f
c104 38 0 0.0309364f
c105 34 0 0.0977949f
c106 33 0 0.138857f
c107 27 0 0.126873f
c108 24 0 0.0569638f
c109 21 0 0.203547f
c110 20 0 0.0967628f
c111 17 0 0.288382f
c112 14 0 0.219805f
c113 12 0 0.331804f
c114 11 0 0.67212f
c115 8 0 0.404344f
c116 5 0 0.0672162f
c117 4 0 0.0861773f
c118 1 0 0.223316f
r119 39 47 15.2843
r120 38 40 0.0519666
r121 38 39 7
r122 34 36 0.12374
r123 33 44 15.2843
r124 33 43 15.2843
r125 32 34 0.00475924
r126 32 33 7
r127 30 34 0.0213549
r128 30 40 0.27625
r129 25 27 20.8333
r130 21 27 1.46822
r131 21 23 41.6667
r132 19 25 1.46822
r133 19 20 29.1667
r134 17 20 13.9682
r135 17 47 77.0833
r136 14 16 41.6667
r137 13 24 10.5861
r138 12 14 13.9682
r139 12 13 79.1667
r140 11 24 2.75115
r141 11 44 208.333
r142 8 43 104.167
r143 4 24 10.5861
r144 4 5 33.3333
r145 1 5 13.9682
r146 1 3 41.6667
.ends

