* File: MU2IX1.pex.netlist.pex
* Created: Thu Jun 22 08:19:01 2017
* Program "Calibre xRC"
* Version "v2017.2_28.22"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MU2IX1%D_VDD 1 4 8 14 26 27
c18 27 0 0.218759f
c19 26 0 0.160248f
c20 8 0 0.543929f
c21 4 0 0.403383f
c22 1 0 0.409129f
r23 21 27 0.17
r24 18 26 0.17
r25 12 14 0.03825
r26 1 21 0.0120155
r27 1 8 0.0329425
r28 1 12 0.0329425
r29 1 18 0.0120155
r30 1 4 0.0329425
r31 1 9 0.0329425
r32 1 14 0.05525
r33 1 8 0.238
r34 1 9 0.238
r35 1 4 0.2295
.ends

.subckt PM_MU2IX1%clk1 2 7 11 15 18 20 22 25 35 36 37 39 46 48 52 54
c90 54 0 0.157908f
c91 52 0 0.220881f
c92 48 0 0.150508f
c93 39 0 0.0351505f
c94 37 0 0.198492f
c95 36 0 0.157632f
c96 35 0 0.05912f
c97 33 0 0.0398649f
c98 32 0 0.0627235f
c99 25 0 0.227826f
c100 22 0 0.163258f
c101 20 0 0.24464f
c102 18 0 0.157335f
c103 15 0 0.135107f
c104 11 0 0.349235f
c105 7 0 0.179738f
c106 2 0 0.110269f
r107 46 54 0.123891
r108 43 52 15.2778
r109 42 43 7
r110 39 42 0.0330556
r111 36 48 15.2843
r112 35 37 0.0519666
r113 35 36 7
r114 26 33 0.00935391
r115 25 39 0.0216719
r116 25 26 0.864167
r117 24 32 0.00935391
r118 24 37 0.715417
r119 22 54 0.0163252
r120 21 33 0.0359928
r121 21 22 0.325833
r122 20 33 0.0359928
r123 19 32 0.0359928
r124 19 20 0.481667
r125 18 32 0.0359928
r126 17 27 0.0216719
r127 17 18 0.2975
r128 13 15 25
r129 9 52 6.3741
r130 9 11 95.8333
r131 5 15 1.46822
r132 5 7 37.5
r133 3 13 1.46822
r134 3 48 50
r135 2 27 0.0330556
.ends

.subckt PM_MU2IX1%D_GND 1 4 5 15 18
c25 19 0 0.0701213f
c26 18 0 0.523277f
c27 16 0 0.0701213f
c28 15 0 0.30864f
c29 5 0 0.196597f
c30 4 0 0.142431f
c31 1 0 0.346569f
r32 18 19 0.0329425
r33 17 19 0.0329425
r34 15 16 0.0329425
r35 14 16 0.0329425
r36 10 19 0.0120155
r37 6 16 0.0120155
r38 5 10 0.146389
r39 4 6 0.146389
r40 1 17 0.02125
r41 1 18 0.03825
r42 1 14 0.17425
r43 1 15 0.15725
.ends

.subckt PM_MU2IX1%QN 2 4 5 6 8 9 10 14 19 20 23 27
c55 27 0 0.083246f
c56 20 0 0.176619f
c57 19 0 0.101559f
c58 14 0 0.284056f
c59 10 0 0.0179206f
c60 9 0 0.159258f
c61 8 0 0.0265127f
c62 6 0 0.00338026f
c63 5 0 0.242589f
c64 4 0 0.00804014f
c65 2 0 0.0801154f
r66 23 27 0.02125
r67 19 21 0.0519666
r68 19 20 0.0519666
r69 14 21 0.502917
r70 11 20 0.283333
r71 9 14 0.0474919
r72 9 10 0.40375
r73 8 27 0.025958
r74 7 10 0.0474919
r75 7 8 0.085
r76 5 11 0.0474919
r77 5 6 0.51
r78 4 6 0.0474919
r79 3 17 0.0181392
r80 3 4 0.10625
r81 2 17 0.0463636
.ends

.subckt PM_MU2IX1%S 1 2 5 7 9 12 16 18 26 29 31 33 34 37 39 40 41
c84 41 0 0.108746f
c85 40 0 0.158045f
c86 39 0 0.0452393f
c87 37 0 0.160547f
c88 34 0 0.0508454f
c89 31 0 0.0131955f
c90 29 0 0.307157f
c91 26 0 0.0135647f
c92 18 0 0.0322879f
c93 16 0 0.255859f
c94 12 0 0.220377f
c95 7 0 0.238934f
c96 5 0 0.212296f
c97 2 0 0.727516f
c98 1 0 0.181663f
r99 40 52 15.2843
r100 39 41 0.0519666
r101 39 40 7
r102 37 48 15.2843
r103 36 37 7
r104 34 36 0.0108974
r105 33 34 0.0363248
r106 31 41 0.439167
r107 29 46 18.8632
r108 29 44 10.0604
r109 28 31 0.0519666
r110 28 29 7
r111 23 26 0.0519666
r112 23 24 7
r113 18 34 0.0324022
r114 18 26 0.269167
r115 16 52 54.1667
r116 12 48 50
r117 7 46 7.56252
r118 7 9 41.6667
r119 3 24 23.917
r120 3 5 37.5
r121 2 44 7.56252
r122 1 24 15.3456
r123 1 2 241.667
.ends

.subckt PM_MU2IX1%IN0 3 5 6 9 13 16
c46 16 0 0.0656277f
c47 13 0 0.445081f
c48 9 0 0.469474f
c49 6 0 0.0834643f
c50 5 0 0.340648f
c51 3 0 0.72024f
r52 12 16 0.0613889
r53 12 13 7
r54 7 13 32.4526
r55 7 9 131.25
r56 5 13 10.5485
r57 5 6 106.25
r58 1 6 13.9682
r59 1 3 204.167
.ends

.subckt PM_MU2IX1%IN1 5 9 13 15 16 17 18 21 23 24 27 29
c56 29 0 0.301376f
c57 27 0 0.165214f
c58 24 0 0.0393354f
c59 21 0 0.162914f
c60 18 0 0.0283781f
c61 17 0 0.20673f
c62 16 0 0.0282813f
c63 15 0 0.043127f
c64 13 0 0.158617f
c65 9 0 0.50208f
c66 5 0 0.188843f
r67 27 33 15.2843
r68 26 27 7
r69 24 26 0.0352071
r70 21 29 15.2843
r71 20 23 0.0136656
r72 20 21 7
r73 17 24 0.019112
r74 17 18 0.772083
r75 16 18 0.0474919
r76 15 23 0.0381298
r77 15 16 0.085
r78 11 13 33.3333
r79 9 33 147.917
r80 3 13 1.46822
r81 3 5 37.5
r82 1 11 1.46822
r83 1 29 102.083
.ends

